Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10],4.04233701847
[C:2](=[C:3](\[H:4])[C:5]([H:6])=[C:7][H:8])\[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.20746665582
[H:1]/[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11][H:12].[H:1][C:2]([H:13])[H:14],4.60612669703
[C:3]([H:4])([H:5])([H:6])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-1.86838184137
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.98244282956
[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[C:1][O:2][C:3]#[C:4].[C:5]([H:6])([H:7])[H:8],4.2405542428
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:8][H:9])=[C:10]([H:11])[H:12].[H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],-1.53640575093
[H:13].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.19156300809
[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1]=[C:2]=[C:3]([C:4]#[C:5])[C:7]([H:8])([H:9])[H:10],5.27886375039
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8],1.54224034299
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[C:8]([H:9])#[C:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:12]([H:10])[H:13],5.57090818355
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:11]([H:12])([H:13])[H:14].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:15]([H:16])([H:17])[H:18],3.2546859897400005
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],4.3156578885000005
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],2.79657049449
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11][H:12]>>[C:9]([H:10])#[C:11][H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-0.7429997084100001
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][H:8],3.90299775615
[C:9][O:10][H:11].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-0.6874288231300001
[H:1][C:2]([H:3])=[C:4]([H:5])[C:12]([H:13])([H:14])[H:15].[O:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.231143713851
[H:16].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.53166206201
[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.70327344519
[H:1][C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.25523563511
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6],2.84097905375
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[O:4],0.75605427809
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-5.745629654889997
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][H:7]>>[O:1]=[C:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.32059161873
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],4.404720247519999
[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-6.11376648054
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-2.06787623961
